US08703758B2
E) N-[2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]isoxazol-3-amine
To a solution of 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one (400 mg) and isoxazol-3-amine (0.129 mL) in methanol (6 mL) and acetic acid (0.300 mL) was added decaborane (213 mg), and the mixture was stirred at room temperature for 3 hr. 1M Hydrochloric acid was added to the reaction mixture, and the mixture was stirred at room temperature for 30 min, and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane/ethyl acetate). The obtained residue was applied to preparative HPLC (C18, mobile phase: water/acetonitrile (containing 0.1% TFA)). Saturated aqueous sodium hydrogen carbonate solution was added to the obtained fraction, and the mixture was extracted with ethyl acetate and the extract was dried over anhydrous sodium sulfate. The residue was concentrated under reduced pressure to give the title compound (126 mg).

reactant | 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one | 400 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(C)=O)C=C1 | C19H24N2O4
reactant | isoxazol-3-amine | 0.129 mL | O1N=C(C=C1)N | C3H4N2O
reactant | decaborane | 213 mg | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
solvent | acetic acid | 0.300 mL | C(C)(=O)O | C2H4O2
product | N-[2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]isoxazol-3-amine | 126 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(C)NC2=NOC=C2)C=C1 | C22H28N4O4
